US07230023B2
(1) 3-Methoxy-1,2-benzenedimethanol
To a solution of 4-methoxy-1-(3H)-isobenzofuranone (described in J. Org. Chem., 52, 129 (1987); 1.64 g, 10.0 mmol) in tetrahydrofuran (30 ml) was added lithium borohydride (652.2 mg, 30 mmol) with stirring at 0° C., and the mixture was heated under reflux for 2.5 hours with stirring. After cooling the mixture to room temperature, a 2N aqueous solution of hydrochloric acid (20 ml) was added thereto. The product was extracted with ethyl acetate, and the organic layer was washed with a saturated aqueous solution of sodium chloride. The filtrate was concentrated under reduced pressure to give a solid residue. The residue was subjected to chromatography on a silica gel (30 g) column (eluent; ethyl acetate:hexane=2:1˜4:1) to afford the title compound (1.31 g, 78% yield) as a colorless solid (mp. 95° C.).

reactant | 4-methoxy-1-(3H)-isobenzofuranone | 10.0 mmol, 1.64 g | COC1=C2COC(C2=CC=C1)=O | C9H8O3
reactant | lithium borohydride | 30 mmol, 652.2 mg | [BH4-].[Li+]
reactant | hydrochloric acid | 20 ml | Cl | ClH
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 3-Methoxy-1,2-benzenedimethanol | 1.31 g, 78% yield | COC1=C(C(=CC=C1)CO)CO | C9H12O3
